US04582851
1-[[2-(Diethylamino)ethyl]amino]-7-hydroxy-4-nitro-9H-thioxanthen-9-one was prepared similarly from 10 g of 1-chloro-7-hydroxy-4-nitrothioxanthone and 8.3 g of N,N-diethylethylenediamine to provide 7.3 g as a tan solid which was used without further purification.

reactant | 1-chloro-7-hydroxy-4-nitrothioxanthone | 10 g | ClC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)O)[N+](=O)[O-] | C13H6ClNO4S
reactant | N,N-diethylethylenediamine | 8.3 g | C(C)N(CCN)CC | C6H16N2
product | 1-[[2-(Diethylamino)ethyl]amino]-7-hydroxy-4-nitro-9H-thioxanthen-9-one | C(C)N(CCNC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)O)[N+](=O)[O-])CC | C19H21N3O4S
